US07977358B2
C] [3,5-Dimethyl-1-(3-nitro-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 3,5-dimethyl-1-(3-nitro-phenyl)-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the tide compound in 93% yield as green foam. MS: 398.1 (MH+).

reactant | 3,5-dimethyl-1-(3-nitro-phenyl)-1H-pyrazole-4-carboxylic acid | CC1=NN(C(=C1C(=O)O)C)C1=CC(=CC=C1)[N+](=O)[O-] | C12H11N3O4
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [3,5-Dimethyl-1-(3-nitro-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 93% yield | CC1=NN(C(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C1=CC(=CC=C1)[N+](=O)[O-] | C21H27N5O3
